US07456164B2
N-[(4-{4-[(1-cyclobutylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]pyridin-2-amine
1-(4-{4-[(1-cyclobutylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-yl)methanamine (0.175 g, 0.53 mmol) was dissolved in toluene (5 mL), 2-bromopyridine (0.051 mL, 0.53 mmol), 2,2′-bis(diphenylphosphino)-1,1′binapthyl (0.013 g, 0.02 mmol) and sodium tert-butoxide (0.076 g, 0.79 mmol) were added. The reaction mixture was purged with nitrogen, tris(dibenzylideneacetone)dipalladium(0) (0.011 g, 0.01 mmol) was added. The mixture was heated under nitrogen at 70° C. for 18 hours. The reaction mixture was diluted with water (20 mL) and extracted with DCM (2×30 mL). The combined organics were dried over sodium sulphate, filtered and concentrated in vacuo to provide a yellow oil. This was purified by HPLC eluting with methanol: 10 nM ammonium formate (aq) (1:1), fractions were combined and concentrated in vacuo to leave a clear oil. This was dissolved in DCM (50 mL) and washed with saturated sodium hydrogen carbonate solution in water (10 mL). The organic was dried over sodium sulphate, filtered and concentrated in vacuo to provide the title compound (0.016 g, 7%) as a clear colourless oil. 1H NMR (400 MHz, CDCl3) δ 1.60-1.70 (m, 2H), 1.70-1.80 (m, 2H), 1.80-1.92 (m, 2H), 1.92-2.0 (m, 2H), 2.18 (m, 2H), 2.90 (m, 1H), 3.10 (t, 2H), 3.15 (m, 1H), 3.40 (t, 2H), 3.50 (d, 2H), 3.60 (m, 2H), 3.80 (m, 2H), 4.0 (m, 1H), 4.10 (d, 2H), 6.22 (d, 1H), 6.50 (d, 1H), 6.90 (d, 2H), 7.28 (d, 2H), 7.32 (t, 1H), 8.0 (d, 1H). HRMS ESI+ m/z 408.2641 [MH]+.

reactant | 1-(4-{4-[(1-cyclobutylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-yl)methanamine | 0.53 mmol, 0.175 g | C1(CCC1)N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)CN | C20H30N2O2
reactant | 2-bromopyridine | 0.53 mmol, 0.051 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | 2,2′-bis(diphenylphosphino)-1,1′binapthyl | 0.02 mmol, 0.013 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 0.79 mmol, 0.076 g | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 mL | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 0.011 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[(4-{4-[(1-cyclobutylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]pyridin-2-amine | 0.016 g, 7% | C1(CCC1)N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)CNC1=NC=CC=C1 | C25H33N3O2
